US06194425B1
2-Aminonicotinic acid (5 g, 36 mmole) was suspended in acetic anhydride (25 mL) then heated at reflux for 2 hours. The reaction mixture was concentrated under vacuum. The resulting residue was slurried with ethyl acetate and hexane then filtered to provide 5 g of 2-methyl-4H-pyrido[2,3-d][1,3]oxazin-4-one.

reactant | 2-Aminonicotinic acid | 36 mmole, 5 g | NC1=C(C(=O)O)C=CC=N1 | C6H6N2O2
reactant | acetic anhydride | 25 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-methyl-4H-pyrido[2,3-d][1,3]oxazin-4-one | 5 g | CC=1OC(C2=C(N1)N=CC=C2)=O | C8H6N2O2
